US05281747
A solution of 21.5 g of isobutyl P-(4-aminobut-2-yl)-P-methyl-phosphinate in 80 ml of 36% aqueous hydrochloric acid is heated to reflux for a period of 10 hours. The reaction mixture is then allowed to cool to room temperature, concentrated under reduced pressure, and co-evaporated twice with 100 ml of water. The crude material is dissolved in water, washed with chloroform, and the aqueous layer treated with activated charcoal. The aqueous solution is filtered hot, evaporated to dryness, the crude product is dissolved in 50 ml of methanol and treated with 1-2 ml of propylene oxide. The hydroscopic solid is filtered and triturated with acetone. After drying, P-(4-aminobut-2-yl)-P-methyl-phosphinic acid is obtained as a hygroscopic solid, m.p. 68°-75°, 31P-NMR spectrum: δ=+46.5 ppm (D2O).

reactant | isobutyl P-(4-aminobut-2-yl)-P-methyl-phosphinate | 21.5 g | NCCC(C)P(OCC(C)C)(=O)C | C9H22NO2P
solvent | hydrochloric acid | 80 ml | Cl | ClH
product | P-(4-aminobut-2-yl)-P-methyl-phosphinic acid | NCCC(C)P(O)(=O)C | C5H14NO2P
